US04783467
Ethyl N-(2-amino-3-methyl-5-[1,2,4-triazol-1-yl]benzyl)glycinate
A mixture of ethyl glycinate (0.38 g), 1-(4-amino-3-formyl-5-methylphenyl)-1,2,4-triazole (0.5 g) and 3Å molecular sieves (1.0 g; "Fluka" [Trade Mark] article No. 69828) was stirred and heated under reflux in chloroform (10 cm3) for 4 hours. The cooled mixture was filtered, evaporated in vacuo, and the residue taken into ethanol (30 cm3). The solution was then hydrogenated at 60 p.s.i. (4.13×105Pa) pressure and room temperature (20°) over 10% palladised charcoal (0.2 g) for 16 hours. The catalyst was then removed by filtration through "Solkafloc" (Trade Mark) and the solution was evaporated in vacuo to give an oil which was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with chloroform. Combination and evaporation of the appropriate fractions afforded the title compound as an oil (0.37 g).

reactant | ethyl glycinate | 0.38 g | NCC(=O)OCC | C4H9NO2
reactant | 1-(4-amino-3-formyl-5-methylphenyl)-1,2,4-triazole | 0.5 g | NC1=C(C=C(C=C1C)N1N=CN=C1)C=O | C10H10N4O
solvent | chloroform | 10 cm3 | C(Cl)(Cl)Cl | CHCl3
product | Ethyl N-(2-amino-3-methyl-5-[1,2,4-triazol-1-yl]benzyl)glycinate | 0.37 g | NC1=C(CNCC(=O)OCC)C=C(C=C1C)N1N=CN=C1 | C14H19N5O2
